spice
* SPICE Netlist
VDD 8 0 DC 3V
R1 8 2 50
R2 2 2 50
R3 2 2 50
R4 3 6 100
M1 6 3 7 7 NMOS L=1u W=1u
M2 6 3 4 4 NMOS L=1u W=1u
M3 6 2 8 8 PMOS L=1u W=1u
M4 2 2 8 8 PMOS L=1u W=1u
Q1 4 3 5 NPN
Q2 7 3 5 NPN
IBIAS 8 2 DC 0.05A
? Missing component
*
.model NMOS NMOS (LEVEL=1)
.model PMOS PMOS (LEVEL=1)
.model NPN NPN (IS=1e-14 BF=100)
.end
